US05219859
1-(1-Methyl-3-indolyl)cyclopentaneacetonitrile (C16H19N2 -MW=238.32)
2.9 g (0.0134 mol) of 1-(1-methyl-3-indolyl)-cyclopentanecarbaldehyde and 5 g (0.0166 mol) of 2,4,6-triisopropylbenzenesulphonohydrazide dissolved in 30 cm3 of tetrahydrofuran are stirred at room temperature for 3 hours. The tetrahydrofuran is thereafter evaporated off completely and 2.6 g (0.0402 mol) of potassium cyanide and 30 cm3 of methanol are added to the residue. The mixture is heated to reflux for 4.5 hours and then cooled, water is added and the mixture is extracted with dichloromethane. In succession, the organic extract obtained is washed with aqueous sodium hydrogen carbonate solution, dried over sodium sulphate and filtered and the solvent is evaporated off. The crude product thereby isolated is purified by chromatography on a silica gel column in dichloromethane and then, where appropriate, by flash chromatography using a 3:1 hexane/ethyl acetate mixture as eluent.

reactant | 1-(1-methyl-3-indolyl)-cyclopentanecarbaldehyde | 0.0134 mol, 2.9 g | CN1C=C(C2=CC=CC=C12)C1(CCCC1)C=O | C15H17NO
reactant | 2,4,6-triisopropylbenzenesulphonohydrazide | 0.0166 mol, 5 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN | C15H26N2O2S
reactant | potassium cyanide | 0.0402 mol, 2.6 g | [C-]#N.[K+]
reactant | methanol | 30 cm3 | CO | CH4O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-Methyl-3-indolyl)cyclopentaneacetonitrile | CN1C=C(C2=CC=CC=C12)C1(CCCC1)CC#N | C16H18N2
